US06503905B1
To a slurry of 4-[1-benzyl-3-(3-methoxy-phenyl)-piperidin-3-yl]-phenol (10.4 g, 27.8mmol) in CH2Cl2 (60 mL) at 0° C. was added pyridine (3.37 mL, 41.7 mmol) followed by dropwise addition of triflic anhydride (5.62 mL, 27.8 mmol) over 5 minutes. The reaction mixture was stirred at 0° C. for 1 hour and at room temperature for 2 hours. The solution was then cooled to 0° C. and 40 mL of cold saturated aqueous NaHCO3 were added. The organic layer was separated and the aqueous layer was washed with CH2Cl2 (3×50 mL). The combined organic layers were dried (MgSO4) and concentrated. The crude residue was purified by flash chromatography with hexanes/EtOAc (4:1) to afford 9.81 g of Trifluoro-methanesulfonic acid 4-[1-benzyl-3-(3-methoxy-phenyl)-piperidin-3-yl]-phenyl ester. 1HNMR (400 MHz, CDCl3) δ 7.39-7.22 (comp, 7H), 7.15 (t, 1H), 7.09 (d, 2H), 6.76-6.67 (comp, 3H), 3.72 (s, 3H), 3.52-3.49 (comp, 2H), 3.08-2.91 (m, 1H), 2.2.72-2.60 (m, 1H), 2.59-2.49 (m, 1H), 2.41-2.29 (m, 1H), 2.23-2.19 (comp, 2H), 1.61-1.41 (comp, 2H); MS (M+1) 506.1.

reactant | 4-[1-benzyl-3-(3-methoxy-phenyl)-piperidin-3-yl]-phenol | 27.8mmol, 10.4 g | C(C1=CC=CC=C1)N1CC(CCC1)(C1=CC(=CC=C1)OC)C1=CC=C(C=C1)O | C25H27NO2
reactant | pyridine | 41.7 mmol, 3.37 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 27.8 mmol, 5.62 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | NaHCO3 | 40 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 4-[1-benzyl-3-(3-methoxy-phenyl)-piperidin-3-yl]-phenyl ester | 9.81 g | C(C1=CC=CC=C1)N1CC(CCC1)(C1=CC(=CC=C1)OC)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C26H26F3NO4S
